US07910617B2
A mixture of 35% aqueous formaldehyde solution (20.8 mL, 264 mmol) and dimethylamine hydrochloride (22.7 g, 278 mmol) was added to 1-methylpyrrole (21.4 g, 264 mmol) under ice-cooling with stirring over 1 hour and 30 minutes and the mixture was stirred at room temperature for 6 hours. A 10% aqueous sodium hydroxide solution (150 mL) and ether were added to the reaction mixture to separate it. The thus obtained organic phase was separated, washed with a saturated aqueous NaCl solution and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (methylene chloride:methanol, 10:1) to obtain 2-(N,N-dimethylaminomethyl)-1-methylpyrrol (31.5 g, yield: 86%). Methyl iodide (16.2 mL, 260 mmol) was added to a solution of 2-(N,N-dimethylaminomethyl)-1-methylpyrrol (30.0 g, 217 mmol) in ethanol (220 mL) under ice-cooling and the mixture was stirred at room temperature for 2 hours. Ethyl acetate (220 mL) was added to the reaction mixture, the precipitated crystal was collected by filtration, washed with ethyl acetate and dried to obtain (1-methylpyrrol-2-yl)methyltrimethylammonium iodide (55.3 g, yield: 91%).

reactant | formaldehyde | 264 mmol, 20.8 mL | C=O | CH2O
reactant | dimethylamine hydrochloride | 278 mmol, 22.7 g | Cl.CNC
reactant | 1-methylpyrrole | 264 mmol, 21.4 g | CN1C=CC=C1 | C5H7N
reactant | sodium hydroxide | 150 mL | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 2-(N,N-dimethylaminomethyl)-1-methylpyrrol | 31.5 g, yield: 86% | CN(C)CC=1N(C=CC1)C | C8H14N2
